US07947676B2
N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-3-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine
The procedure described in Example 23 was repeated using 3-(2-chloroethoxy)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine and N-methylpiperazine to give the title compound in 30% yield; NMR Spectrum: 2.10 (s, 3H), 2.19 (s, 3H), 2.30 (br s, 4H), 2.43 (s, 3H), 2.50 (hidden under DMSO, 4H), 2.79 (t, 2H), 4.43 (t, 2H), 6.96 (d, 1H), 7.17-7.24 (m, 2H), 7.61-7.64 (m, 2H), 8.16 (s, 1H), 8.30 (s, 1H), 8.34 (s, 1H); Mass Spectrum: 475 (MH+).

reactant | 3-(2-chloroethoxy)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-4-amine | ClCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OC=2C=NC(=CC2)C)C | C20H19ClN6O2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-3-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 30% yield | CC=1C=C(C=CC1OC=1C=NC(=CC1)C)NC1=C2C(=NC=N1)NN=C2OCCN2CCN(CC2)C | C25H30N8O2
